US09062044B2
Intermediate 25: (1S,6R)-3,8-Diazabicyclo[4.2.0]octan-8-yl(6-methyl-2-(1H-1,2,3-triazol-1-yl)pyridin-3-yl)methanone
To 1S,6R)-tert-butyl 8-(6-methyl-2-(1H-1,2,3-triazol-1-yl)nicotinoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate (1.05 g, 2.64 mmol) in DCM (15 mL) was added TFA (3 mL). The resulting mixture was allowed to stir at ambient temperature. After 16 h the mixture was concentrated under reduced pressure and the crude residue was purified by FCC (SiO2, gradient DCM to 15% MeOH/10% NH3/DCM) to yield the title compound (790 mg, 71%). MS (ESI) mass calcd. for C15H18N6O, 298.2; m/z found, 299.1 [M+H]+.

reactant | tert-butyl 8-(6-methyl-2-(1H-1,2,3-triazol-1-yl)nicotinoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 2.64 mmol, 1.05 g | CC1=NC(=C(C(=O)N2CC3CCN(CC23)C(=O)OC(C)(C)C)C=C1)N1N=NC=C1 | C20H26N6O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (1S,6R)-3,8-Diazabicyclo[4.2.0]octan-8-yl(6-methyl-2-(1H-1,2,3-triazol-1-yl)pyridin-3-yl)methanone | 790 mg, 71% | [C@H]12CNCC[C@@H]2CN1C(=O)C=1C(=NC(=CC1)C)N1N=NC=C1 | C15H18N6O
